US07691877B2
(2-Amino-6-bromo-3-nitro-pyridin-4-yl)-(6-trifluoromethyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 69 using (2,6-dibromo-3-nitro-pyridin-4-yl)-(6-trifluoromethyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (2.75 g), aqueous ammonia (11 ml), and 2-methyl-THF (11 ml). This gave the product (1.92 g) as a yellow oil.

reactant | (2,6-dibromo-3-nitro-pyridin-4-yl)-(6-trifluoromethyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 2.75 g | C(C)OC(N(CC=1C=NC(=CC1)C(F)(F)F)C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C15H11Br2F3N4O4
reactant | ammonia | 11 ml | N | H3N
product | (2-Amino-6-bromo-3-nitro-pyridin-4-yl)-(6-trifluoromethyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | C(C)OC(N(CC=1C=NC(=CC1)C(F)(F)F)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H13BrF3N5O4
